US07429565B2
2-(Hydroxy-{2-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enylamino]-ethyl}-phosphinoyloxy)-propionic acid
A solution of 2-[hydroxy-(2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphinoyloxy]-propionic acid ethyl ester (15 mg, 0.026 mmol) in 10% TFA-CH2Cl2 (1 mL) was stirred at ambient temperature for 10 minutes. The reaction was worked up by removal of the solvent. The residue was dissolved in THF (0.5 mL) and water (0.4 mL) and 1N aqueous NaOH solution (0.1 mL) was added. The solution was stirred at room temperature for 20 minutes when it was acidified with 1N aqueous HCl solution. The resulting solution was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 6.8 mg of the product as a white solid. 1H NMR (300 MHz, CDCl3) δ 1.38 (d, 3H, J=7 Hz), 1.91 (s, 3H), 2.13 (s, 3H), 2.12-2.28 (m, 2H), 3.12-3.33 (m, 2H), 3.41 (d, 2H, J=6 Hz), 3.56 (br s, 2H), 3.75 (s, 3H), 4.71-4.88 (m, 1H), 5.16 (s, 2H), 5.58-5.71 (m, 1H), 7.88 (br s, 3H), 8.60 (br s, 1H), 8.78 (br s, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 22.0 ppm; MS (m/z) 458.3 [M+H]+, 480.3 [M+Na]+.

reactant | 2-[hydroxy-(2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphinoyloxy]-propionic acid ethyl ester | 0.026 mmol, 15 mg | C(C)OC(C(C)OP(=O)(CCNCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)O)=O | C27H44NO9PSi
solvent | TFA CH2Cl2 | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(Hydroxy-{2-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enylamino]-ethyl}-phosphinoyloxy)-propionic acid | 6.8 mg | OP(=O)(OC(C(=O)O)C)CCNCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C20H28NO9P
